US08913931B2
70 mmol of 2-(dibutylamino) ethanol, 75 mmol of 1-chlorobutane, and 50 g of ethanol were mixed under N2 atmosphere, and made to react at 80 degrees C. for 8 hours under reflux condition. The ethanol and extra 1-chlorobutane were distilled away therefrom by reducing pressure to produce 70 mmol of (2-hydroxyethyl)tributylammonium chloride.

reactant | 2-(dibutylamino) ethanol | 70 mmol | C(CCC)N(CCO)CCCC | C10H23NO
reactant | 1-chlorobutane | 75 mmol | ClCCCC | C4H9Cl
solvent | ethanol | 50 g | C(C)O | C2H6O
product | (2-hydroxyethyl)tributylammonium chloride | 70 mmol | [Cl-].OCC[N+](CCCC)(CCCC)CCCC | InChI=1S/C14H32NO.ClH/c1-4-7-10-15(13-14-16,11-8-5-2)12-9-6-3;/h16H,4-14H2,1-3H3;1H/q+1;/p-1
